US07550629B2
B. 4,4,4-Trifluoro-2-(triphenyl-λ5-phosphanylidene)-butyric acid ethyl ester
To a suspension of (3,3,3-trifluoropropyl)-triphenylphosphonium iodide (105 g, 20.6 mmol) in THF (40 mL) at −78° C. was added slowly a solution of lithium bis(trimethylsilyl)amide (1.0 M in THF, 41.2 mL) through an addition funnel under nitrogen. The resulting mixture was stirred at −78° C. for 15 min followed by dropwise addition of a solution of ethylchloroformate (3.92 mL, 41.2 mmol) in THF (40 mL). The reaction mixture was then allowed to warm up to 25° C. while stirring. The reaction mixture was partitioned between EtOAc (300 mL) and brine (300 mL). The organic layer was dried over Na2SO4 and evaporated in vacuo to afford a crude solid which was purified by flash chromatography (EtOAc:hexanes 1:1) to provide a light tan solid (7.18 g) in 81% yield. Mass Spectrum (+ESI): 431 [M+H]+.

reactant | (3,3,3-trifluoropropyl)-triphenylphosphonium iodide | 20.6 mmol, 105 g | [I-].FC(CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(F)F
reactant | lithium bis(trimethylsilyl)amide | 1.0 M, 41.2 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | ethylchloroformate | 41.2 mmol, 3.92 mL | C(C)OC(=O)Cl | C3H5ClO2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 4,4,4-Trifluoro-2-(triphenyl-λ5-phosphanylidene)-butyric acid ethyl ester | 7.18 g, 81% yield | C(C)OC(C(CC(F)(F)F)=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C24H22F3O2P
